US06875884B1
Lithium hydroxide monohydrate (4 mg, 0.095 mmol) was added to a solution of [3-(phenylureido)propyl][2-(4 chlorophenyl)ethyl][4-(methoxycarbonyl)benzyl]ethylammonium iodide (28 mg, 0.044 mmol) in 10% water/methanol (1.3 ml). After stirring at RT for 26 h, the reaction mixture was concentrated under vacuum to dryness. The residue was adsorbed on a plate of silica gel and then developed with 33% methanol/chloroform to afford [3-(phenylureido)propyl][2-(4-chlorophenyl)ethyl][4-(carboxy)benzyl]ethylammonium iodide (19 mg, 70%): MS(ES+) m/e 496 [M-I]+; 1H NMR (400 MHz, CD3OD) δ 8.01 (d, J=8.3 Hz, 2H), 7.53 (d, J=8.3 Hz, 2H), 7.38 (m, 2H), 7.30 (m, 4H), 7.24 (m, 2H), 6.97 (m, 1H), 4.59 (s, 2H), 3.31 (m, 8H), 3.15 (m, 2H), 2.15 (m, 2H), 1.48 (t, J=7.1 Hz, 3H).

reactant | Lithium hydroxide monohydrate | 0.095 mmol, 4 mg | O.[OH-].[Li+]
reactant | [3-(phenylureido)propyl][2-(4 chlorophenyl)ethyl][4-(methoxycarbonyl)benzyl]ethylammonium iodide | 0.044 mmol, 28 mg | [I-].C1(=CC=CC=C1)NC(NCCC[NH+](CCCC1=CC=C(C=C1)C(=O)OC)CCC1=CC=C(C=C1)Cl)=O
solvent | water methanol | 1.3 ml | O.CO
product | [3-(phenylureido)propyl][2-(4-chlorophenyl)ethyl][4-(carboxy)benzyl]ethylammonium iodide | 19 mg, 70% | [I-].C1(=CC=CC=C1)NC(NCCC[NH+](CCCC1=CC=C(C=C1)C(=O)O)CCC1=CC=C(C=C1)Cl)=O | InChI=1S/C28H32ClN3O3.HI/c29-25-15-11-23(12-16-25)17-21-32(19-4-6-22-9-13-24(14-10-22)27(33)34)20-5-18-30-28(35)31-26-7-2-1-3-8-26;/h1-3,7-16H,4-6,17-21H2,(H,33,34)(H2,30,31,35);1H
